US08277807B2
10% Palladium on activated carbon (200 mg) was added to a solution of (2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-methanol (2.39 g, 10.0 mmol) in ethanol (60 ml) and the resulting mixture was placed in a Parr apparatus, heated to 50° C. and shaken under a hydrogen atmosphere at 60 psi for 30 hours. Upon cooling to room temperature the mixture was filtered under gravity, the solids were rinsed with ethanol (2×10 ml) and the solvent removed in vacuo to afford (2,3-dihydro-1H-isoindol-5-yl)-methanol (1.49 g, 100%) as an off-white solid. 1H NMR (DMSO-d6) 7.20 (1H, s), 7.18 (1H, d), 7.12 (1H, d), 5.10 (1H, br s), 4.46 (2H, s), 4.05 (4H, s). MS: [M+H]+ 150.

reactant | (2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-methanol | 10.0 mmol, 2.39 g | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)CO | C16H17NO
catalyst | Palladium on activated carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (2,3-dihydro-1H-isoindol-5-yl)-methanol | 1.49 g, 100% | C1NCC2=CC(=CC=C12)CO | C9H11NO
